US07994338B2
3,4-Dimethoxy-N-[4-(3-nitrophenyl)-5-dimethylaminomethyl-1,3-thiazole-2-yl]benzenesulfonamide
To a stirred solution of 3,4-dimethoxy-N-(4-(3-nitrophenyl)thiazol-2-yl)benzenesulfonamide (0.267 g, 0.68 mmol) in ethanol (10 mL, warming required) was added an aqueous solution of formaldehyde (37%, 0.5 mL, about 0.194 g, 6.5 mmol) followed by the dropwise addition of a solution of dimethylamine in water (60 wt %, 55 mL, about 0.274 g, 6.1 mmol). The addition was slightly exothermic, and the pale yellow solution became yellow-orange in color. After 0.5 h, a pale yellow solid separated from solution. After 19 h, the solid was collected by filtration, it was washed with ethanol, and dried in vacuo to give a pale yellow solid (0.277 g, 86.3% yield), mp 203° C.

reactant | 3,4-dimethoxy-N-(4-(3-nitrophenyl)thiazol-2-yl)benzenesulfonamide | 0.68 mmol, 0.267 g | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C17H15N3O6S2
reactant | formaldehyde | 6.5 mmol, 0.5 mL, about 0.194 g | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | water | 6.1 mmol, 55 mL, about 0.274 g | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3,4-Dimethoxy-N-[4-(3-nitrophenyl)-5-dimethylaminomethyl-1,3-thiazole-2-yl]benzenesulfonamide | 0.277 g, 86.3% yield | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC(=C(N1)C1=CC(=CC=C1)[N+](=O)[O-])CN(C)C | C20H22N4O6S2
